US05719141
26,0 g of 3-bromoquinoline and 4.35 g of 2-oxazolidinone in 200 ml of xylene are heated under reflux in the presence of 7.4 g of potassium acetate and 4.8 g of copper powder for 9 h, analogously to the process of B.Renger in Synthesis (1985) 856. After the mixture has been worked up, the crude product is purified over silica gel with a 500:10:1 mixture of methylene chloride, methanol and concentrated ammonia as the mobile phase, to give 3-(quinolin-3-yl)-2-oxazolidinone as a crystalline solid: Rf (500:10:1 mixture of methylene chloride, methanol and concentrated ammonia)=0.39; FAB-MS: (M+H)+ =215. Hydrogenation of 0.67 g of the resulting product in 10 ml of ethanol in the presence of 0.1 g of palladium-on-charcoal (10% of palladium) at 50° C. in the course of 20 h and FC over 80 g of silica get (mobile phase N) gives 3(R,S)-(2-oxo-oxazolidin-3-yl)-1,2,3,4-tetrahydroquinoline as a white solid: Rf (N)=0.61; MS: M+ =218.

reactant | 3-bromoquinoline | 26,0 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | 2-oxazolidinone | 4.35 g | O1C(NCC1)=O | C3H5NO2
reactant | potassium acetate | 7.4 g | C(C)(=O)[O-].[K+]
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | copper | 4.8 g | [Cu] | Cu
product | 3-(quinolin-3-yl)-2-oxazolidinone | N1=CC(=CC2=CC=CC=C12)N1C(OCC1)=O | C12H10N2O2
